US07432227B2
A solution of methyl 3-chloro-6-(chloromethyl)pyridine-2-carboxylate 1-oxide (1.50 g, 6.35 mmol) in methanol (15 mL) was cooled to 0° C. A 25% solution of sodium methoxide in methanol (1.52 mL) was added and the mixture stirred at room temperature for 6 days. The reaction mixture was diluted with ethyl acetate and washed with water. To the aqueous layer was added brine solution and was extracted with ethyl acetate. The organic layers were combined, dried (MgSO4), filtered and concentrated to dryness to give crude methyl 3-chloro-6-(methoxymethyl)pyridine-2-carboxylate 1-oxide (1.14 g, 4.92 mmol) as a yellow oil; 1H NMR (CDCl3): δ 7.50 (d, 1H), 7.40 (d, 1H), 4.60 (s, 2H), 4.10 (s, 3H), 3.50 (s, 3H).

reactant | methyl 3-chloro-6-(chloromethyl)pyridine-2-carboxylate 1-oxide | 6.35 mmol, 1.50 g | ClC1=C([N+](=C(C=C1)CCl)[O-])C(=O)OC | C8H7Cl2NO3
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
solvent | methanol | 1.52 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-chloro-6-(methoxymethyl)pyridine-2-carboxylate 1-oxide | 4.92 mmol, 1.14 g | ClC1=C([N+](=C(C=C1)COC)[O-])C(=O)OC | C9H10ClNO4
